US04440941
D. N-(2-Acetylthio-3-methylbenzoyl)-N-cyclopentylglycine
N-(2-Acetylthio-3-methylbenzoyl)-N-cyclopentylglycine t-butyl ester (16.7 g, 0.047 mole) was dissolved in 100 ml CH3CN. Sodium iodide (9.6 g, 0.064 mole) was then added. The resulting slurry was covered with a nitrogen atmosphere and warmed slowly to 55° C. Chlorotrimethylsilane (6.9 g, 0.0641 mole) was then added in one portion. The reaction was stirred 30 minutes at 50°-55° C. The heat source was then removed and the reaction cooled to room temperature with an ice bath. Water (60 ml) and CH2Cl2 (100 ml) were then added. The reaction mixture was transferred to a separatory funnel and the aqueous layer quickly withdrawn. The organic was washed 2×50 ml H2O, 3×75 ml Na2S2O3, 2×100 ml brine, dried (MgSO4), filtered and concentrated in vacuo to give 15.9 g of an orange oil.

reactant | N-(2-Acetylthio-3-methylbenzoyl)-N-cyclopentylglycine t-butyl ester | 0.047 mole, 16.7 g | C(C)(C)(C)OC(CN(C1CCCC1)C(C1=C(C(=CC=C1)C)SC(C)=O)=O)=O | C21H29NO4S
reactant | Sodium iodide | 0.064 mole, 9.6 g | [I-].[Na+]
reactant | Chlorotrimethylsilane | 0.0641 mole, 6.9 g | Cl[Si](C)(C)C | C3H9ClSi
solvent | CH3CN | 100 ml | CC#N | C2H3N
product | N-(2-Acetylthio-3-methylbenzoyl)-N-cyclopentylglycine | 15.9 g | C(C)(=O)SC1=C(C(=O)N(CC(=O)O)C2CCCC2)C=CC=C1C | C17H21NO4S
